US05000946
4,4-Diacetylbutyronitrile was prepared by addition of acrylonitrile to the sodium salt of acetyl acetone according to the procedure of Johnson et al, J.Chem.Soc (C), 1969, 176.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | sodium | [Na] | Na
reactant | acetyl acetone | C(C)(=O)CC(C)=O | C5H8O2
product | 4,4-Diacetylbutyronitrile | C(C)(=O)C(CCC#N)C(C)=O | C8H11NO2
